US06107329
(R)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride
(R)-[1-(4-Fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid-tert-butyl ester (2.6 mmol) was dissolved in 4M HCl-dioxane (2 mL) at 0° C. The solution was stirred 2 hours at 25° C., concentrated and the residue triturated with ether. Yield, 920 mg, 124%; HPLC (60/40) 2.23 minutes (98%).

reactant | (R)-[1-(4-Fluoro-benzyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-carbamic acid-tert-butyl ester | 2.6 mmol | C(C)(C)(C)OC(N[C@@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F)=O | C19H27FN2O4
reactant | HCl dioxane | 4M, 2 mL | Cl.O1CCOCC1
product | (R)-2-Amino-3-(4-fluoro-phenyl)-1-(4-hydroxy-piperidin-1-yl)-propan-1-one hydrochloride | Cl.N[C@@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F | InChI=1S/C14H19FN2O2.ClH/c15-11-3-1-10(2-4-11)9-13(16)14(19)17-7-5-12(18)6-8-17;/h1-4,12-13,18H,5-9,16H2;1H/t13-;/m1./s1
